US09278968B2
To a solution of 146 mg of tert-butyl 4-(N′-hydroxycarbamimidoyl)-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate in 4 ml of dichloromethane was added 55 μl of acetic anhydride, followed by stirring at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and to the obtained residue were added 4 ml of DMF, followed by stirring at 110° C. for 15 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 113 mg of tert-butyl 2,2,4-trimethyl-4-(5-methyl-1,2,4-oxadiazol-3-yl)-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl 4-(N′-hydroxycarbamimidoyl)-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 146 mg | ON=C(N)C1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H23N3O4
reactant | acetic anhydride | 55 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-butyl 2,2,4-trimethyl-4-(5-methyl-1,2,4-oxadiazol-3-yl)-1,3-oxazolidine-3-carboxylate | 113 mg | CC1(OCC(N1C(=O)OC(C)(C)C)(C1=NOC(=N1)C)C)C | C14H23N3O4
